US05079245
A mixture of 228.2 g of 2-trifluoromethyl-6,7,8,9-tetrahydro-[5H]-benzocyclohepten-7-one, 219 g of N-ethylformamide and 151 g of formic acid is heated under reflux for 14 hours. After concentration in vacuo, while heating on a bain-marie, the residue is taken up in 2300 ml of methylene chloride. After washing twice with 800 ml of water each time, the organic layer is dried over magnesium sulphate and, after filtration, the solvent is removed in vacuo. 283 g of 2-trifluoromethyl-7-(N-ethyl-N-formylamino)-6,7,8,9-tetrahydro-[5H]-benzocycloheptene are obtained in the form of an oil.

reactant | 2-trifluoromethyl-6,7,8,9-tetrahydro-[5H]-benzocyclohepten-7-one | 228.2 g | FC(C=1C=CC2=C(CCC(CC2)=O)C1)(F)F | C12H11F3O
reactant | N-ethylformamide | 219 g | C(C)NC=O | C3H7NO
solvent | formic acid | 151 g | C(=O)O | CH2O2
product | 2-trifluoromethyl-7-(N-ethyl-N-formylamino)-6,7,8,9-tetrahydro-[5H]-benzocycloheptene | 283 g | FC(C=1C=CC2=C(CCC(CC2)N(C=O)CC)C1)(F)F | C15H18F3NO
